US07855216B2
Step 1: 3-(2-Fluoro-4-iodo-phenylamino)-1-(2-triisopropylsilanyloxy-ethyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide
To a suspension of 3-(2-fluoro-4-iodo-phenylamino)-1-(2-triisopropylsilanyloxy-ethyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid methyl ester (90 mg, 0.15 mmol) in ethanol (2 mL) was added a 1M aqueous solution of sodium hydroxide (0.15 mL, 0.15 mmol). The reaction mixture was heated at 65° C., stirred for 1 hour, cooled to room temperature, concentrated and azeotroped with toluene. The resultant residue was suspended in THF to which O-(2-vinyloxy-ethyl)-hydroxylamine (31 mg, 0.30 mmol), EDCI (37 mg, 0.19 mmol), HOBt (30 mg, 0.22 mmol) and DIPEA (105 μl, 0.60 mmol) were added. The reaction mixture was stirred at room temperature for 16 h then concentrated to give a residue which was purified by flash chromatography (Si-PPC, cyclohexane:EtOAc, gradient 100:0 to 0:100). The title compound was obtained as a yellow solid (58 mg, 57%). LCMS (method B): RT=3.24 min, M+H+=683.

reactant | 3-(2-fluoro-4-iodo-phenylamino)-1-(2-triisopropylsilanyloxy-ethyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid methyl ester | 0.15 mmol, 90 mg | COC(=O)C1=C(C=2C=NC=CC2N1CCO[Si](C(C)C)(C(C)C)C(C)C)NC1=C(C=C(C=C1)I)F | C26H35FIN3O3Si
reactant | sodium hydroxide | 0.15 mmol, 0.15 mL | [OH-].[Na+]
reactant | O-(2-vinyloxy-ethyl)-hydroxylamine | 0.30 mmol, 31 mg | C(=C)OCCON | C4H9NO2
reactant | EDCI | 0.19 mmol, 37 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.22 mmol, 30 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.60 mmol, 105 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | THF | C1CCOC1 | C4H8O
product | 3-(2-Fluoro-4-iodo-phenylamino)-1-(2-triisopropylsilanyloxy-ethyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide | C(=C)OCCONC(=O)C1=C(C=2C=NC=CC2N1CCO[Si](C(C)C)(C(C)C)C(C)C)NC1=C(C=C(C=C1)I)F | C29H40FIN4O4Si
